Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[O:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],40.89764003864771
[O:1]([C:5]1=[C:6]([H:10])[C@@:2]1([C:3](=[O:4])[H:9])[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],64.56070676827377
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C@@:3]2([H:10])[C@:4]1([H:11])[C:5]([H:13])([H:14])[O:6]2.[O:1]([H:7])[H:12],88.2093322583882
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[N:4][H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:12],68.6387956753634
[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11].[C:5](=[O:6])([H:14])[H:15],47.926953399940395
[C:1]([H:7])([H:8])([H:9])[H:14].[N:2]1([C:3]([H:10])([H:11])[H:12])/[C:4](=[N:6]/[H:13])[O:5]1>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9],29.94666969377711
[C:1]([C@@:2]1([C:6]#[N:7])[C:4]([O:3][H:11])=[C:5]1[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],59.837029470428575
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]1[C:3]([H:12])([H:13])[C:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],4.6916290839598815
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8]>>[O:1](/[C:2](=[C:7](\[N:6]=[C:5](/[O:4][C:3]([H:10])([H:11])[H:13])[H:12])[H:14])[H:9])[H:8],96.25758373444759
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],75.1489479486905
[C:1]([C@@:2]1(/[C:3](=[N:4]/[H:12])[H:11])[C:5]([O:6][H:13])=[N:7]1)([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([O:6][H:13])[n:7]1)([H:8])([H:9])[H:10],38.54020040097732
[N-:1]=[N:4][C:3]#[C+:2]>>[N:1]#[C:2][C:3]#[N:4],87.6708385608544
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:5](=[O+:6][C:7]([H:17])([H:18])[H:19])[H:15].[C:1]([C:2]([O:3][C:4]([H:13])([H:14])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],69.5890142559126
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[N:5]([C+:6]([O-:7])[H:14])[H:13])([H:9])[H:10])[H:8],63.4637571530832
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:8])[H:11])([H:9])([H:10])[H:17].[C:4](=[C:5]([C:6]([H:18])([H:19])[H:20])[O:7][H:21])([H:15])[H:16]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],94.43479743291017
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:6](=[C:5]=[C:3]=[O:4])[H:10])([H:7])([H:8])[H:9],57.2491563819788
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]1([H:8])([H:9])[C-:2]([H:10])[C:6]([C:5]([C:4](=[C:3]([H:11])[H:12])[H:13])([H:14])[H:15])([H:16])[C+:7]1[H:17],73.8480386589706
[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],41.1626817159239
[N:1](=[C:2])[H:8].[N:3]#[N+:4][C:7](=[C:6]([O-:5])[H:9])[H:10]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],22.441229240715195
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C:3]([H:11])([H:13])[C@:5]([O:6][H:12])([H:14])[O:4]1)([H:7])([H:8])[H:9],91.04953588215807
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([O+:7]=[C-:6][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],44.204324767144705
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:6](=[C:4]=[O:5])[C:7]1([H:11])[H:15])([H:8])([H:9])[H:10],65.7780325103452
[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2](=[O+:3][C-:4]([C:5]#[C:6][H:11])[H:9])[H:8])([H:7])[H:10],38.3037414580681
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:8])([H:9])[H:10].[C:2](=[C:3]([H:13])[H:14])([H:11])[H:12],106.593568766848
